US07855201B2
Step 5: (−)-((2R)—N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide
A mixture of 8.79 g of (−)-4-benzyl-N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide and 50 mL of 4N HCl in dioxane was stirred for 3 hrs at room temperature, then concentrated under reduced pressure. The residue was partitioned between 3×50 mL of chloroform and 20 mL of saturated sodium carbonate, dried over magnesium sulfate and concentrated under reduced pressure. Drying under vacuum gave the product as a resin: MS (m+1)=349.3; H NMR (400 MHz, CDCl3) 7.3-6.7 (complex m, 5H), 4.6 (br d, 1H), 6.8-6.7 (m, 2H), 4.4 (d, 1H), 4.2 (m, 4H), 4.15 (q, 1H), 4.08 (br d, 1H), 3.95 (m, 1H), 3.5 (m, 1H), 3.2 (m, 1H), 3.0 (dd, 1H), 2.2 (m, 1H), 2.0 (m, 1H) 1.45 (2×s, 9H), 0.9 (dd, 6H).

reactant | (−)-4-benzyl-N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide | 8.79 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)N(CC(C)C)CC1=CC2=C(OCCCO2)C=C1 | C26H34N2O4
reactant | HCl | 4N, 50 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R)—N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide | O1CCCOC2=C1C=CC(=C2)CN(C(=O)[C@H]2CNCCO2)CC(C)C | C19H28N2O4
